US08859541B2
Za) 3-iodo-7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridine
A mixture of 7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridine (6.52 g, 31.1 mmol), N-iodosuccinimide (7.0 g, 31.1 mmol) and ACN (180 ml) is stirred at RT for 17 h. The precipitate is collected, washed with ACN and dried. Yield: 4.4 g (42%). HPLC-MS: M+H=336; tR=1.55 min (*Method—3).

reactant | 7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridine | 31.1 mmol, 6.52 g | CC1=CC=2N(C=C1)C=C(N2)C2=CC=NC=C2 | C13H11N3
reactant | N-iodosuccinimide | 31.1 mmol, 7.0 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | ACN | 180 ml | C(C)#N | C2H3N
product | 3-iodo-7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridine | IC1=C(N=C2N1C=CC(=C2)C)C2=CC=NC=C2 | C13H10IN3
